US08309581B2
4-[3-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-pyridin-2-yloxymethyl]-benzoic acid methyl ester
A solution of 4-hydroxymethyl-benzoic acid methyl ester (0.14 g, 0.84 mmol; CAS Reg. No. 6908-41-4), palladium (II) acetate (19 mg, 0.084 mmol; CAS Reg. No.) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (52 mg, 0.084 mmol; CAS Reg. No.) in dry toluene (10 ml) was stirred at 25° C. for 5 min. under argon atmosphere. To the resulting deep red solution was then added a solution of 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole (Ex. 1, intermediate a, 0.30 g, 0.84 mmol) in toluene (5 ml) and cesium carbonate (0.82 g, 2.52 mmol). The flask was purged with argon, and the reaction mixture was heated at 100° C. for 12 h. The solid was filtered, the filtrate concentrated in vacuo and the residue was purified by column chromatography over silica gel (15-20% ethyl acetate/n-hexane) to afford the title compound as brown sticky solid (60%). MS (Turbo Spray): m/z=492.3 (M+H).

reactant | 4-hydroxymethyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CO)=O | C9H10O3
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | ClC1=NC=CC=C1C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C19H18ClF2N3
reactant | cesium carbonate | 2.52 mmol, 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[3-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-pyridin-2-yloxymethyl]-benzoic acid methyl ester | 60% | COC(C1=CC=C(C=C1)COC1=NC=CC=C1C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)=O | C28H27F2N3O3
